### PR TITLE
feat: Complete TightBindingChain Hamiltonian hermiticity and eigenstate orthogonality proofs

### PR DESCRIPTION
**Pull request by physlean0**
## Summary

This PR completes two key sorryful lemmas in the tight binding chain model:

- **`hamiltonian_hermitian`**: Proves that the tight binding Hamiltonian is Hermitian by showing that the inner products satisfy `⟨Hψ, φ⟩ = ⟨ψ, Hφ⟩`
  - Adds helper lemma `localizedComp_adjoint`: adjoint of |m⟩⟨n| is |n⟩⟨m|
  - Adds helper lemma `localizedComp_self_adjoint`: diagonal terms are self-adjoint

- **`energyEigenstate_orthogonal`**: Proves energy eigenstates with distinct wavenumbers are orthogonal using the geometric series identity
  - The key insight is that the inner product reduces to ∑ωⁿ where ω is an N-th root of unity (from periodic boundary conditions)
  - Different wavenumbers give ω ≠ 1, and ∑ωⁿ = (ωᴺ - 1)/(ω - 1) = 0

These proofs formalize fundamental quantum mechanical results about the tight binding model commonly used in condensed matter physics.

## Test plan

- [x] `lake build PhysLean.CondensedMatter.TightBindingChain.Basic` compiles successfully
- [x] No new sorrys introduced
- [x] Removes 2 `@[sorryful]` annotations

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: PhysLean/CondensedMatter/TightBindingChain/Basic.lean [hunk 1]
```diff
@@ -212,10 +212,42 @@ noncomputable def hamiltonian : T.HilbertSpace →ₗ[ℂ] T.HilbertSpace :=
...
+/-- The adjoint of localizedComp |m⟩⟨n| is |n⟩⟨m|. -/
+lemma localizedComp_adjoint (m n : Fin T.N) (ψ φ : T.HilbertSpace) :
+    ⟪|m⟩⟨n| ψ, φ⟫_ℂ = ⟪ψ, |n⟩⟨m| φ⟫_ℂ := by
+  simp only [localizedComp, LinearMap.coe_mk, AddHom.coe_mk]
+  rw [inner_smul_left, inner_smul_right]
+  rw [inner_conj_symm]
+  ring
+
+/-- The diagonal term |n⟩⟨n| is self-adjoint. -/
+lemma localizedComp_self_adjoint (n : Fin T.N) (ψ φ : T.HilbertSpace) :
```
Comment (jstoobysmith) [inline PhysLean/CondensedMatter/TightBindingChain/Basic.lean]: I think we can delete this, and replace it below just with `localizedComp_adjoint`

File: PhysLean/CondensedMatter/TightBindingChain/Basic.lean [hunk 2]
```diff
@@ -212,10 +212,42 @@ noncomputable def hamiltonian : T.HilbertSpace →ₗ[ℂ] T.HilbertSpace :=
 
 -/
 
+/-- The adjoint of localizedComp |m⟩⟨n| is |n⟩⟨m|. -/
+lemma localizedComp_adjoint (m n : Fin T.N) (ψ φ : T.HilbertSpace) :
```
Comment (jstoobysmith) [inline PhysLean/CondensedMatter/TightBindingChain/Basic.lean]: I think this can be moved up into section `C`.

**Review by jstoobysmith — COMMENTED** [review]
Added some comments - if you could handle these it would be great, if not let me know and I can do them.

File: PhysLean/CondensedMatter/TightBindingChain/Basic.lean [hunk 3]
```diff
@@ -478,10 +510,104 @@ noncomputable def energyEigenstate (k : T.QuantaWaveNumber) : T.HilbertSpace :=
...
+
+This is a fundamental quantum mechanical result: eigenstates of a Hermitian operator
+(the Hamiltonian) with distinct eigenvalues are orthogonal. Here we prove it directly
+using the periodic boundary conditions which quantize the wavenumbers.
+
+The key physical insight is that different wavenumbers k₁ ≠ k₂ give rise to different
+N-th roots of unity exp(i(k₂-k₁)a), and the sum of all N-th roots of unity equals zero. -/
 lemma energyEigenstate_orthogonal :
-    Pairwise fun k1 k2 => ⟪T.energyEigenstate k1, T.energyEigenstate k2⟫_ℂ = 0 := by sorry
+    Pairwise fun k1 k2 => ⟪T.energyEigenstate k1, T.energyEigenstate k2⟫_ℂ = 0 := by
```
Comment (jstoobysmith) [inline PhysLean/CondensedMatter/TightBindingChain/Basic.lean:516]: I would also be interested in knowing if Claude could 'golf' this proof to make it shorter.

Comment (physlean0) [reply PhysLean/CondensedMatter/TightBindingChain/Basic.lean:516]: Yes! The proof has been golfed from 84 lines to 47 lines (37 lines shorter). Key changes:

- Replaced `match k1, k2 with | ⟨_, hk1⟩, ⟨_, hk2⟩ =>` pattern with cleaner `obtain ⟨_, ⟨n1, rfl⟩⟩ := k1` destructuring
- Combined initial `simp only [energyEigenstate]` and `rw [sum_inner]` into single `simp only`
- Used `calc` block for `hω_pow` instead of separate `have heq` + `rw`
- Inlined `hm_eq` computation directly into `hm_int` proof
- Replaced `apply Finset.sum_congr rfl; intro i _` with `refine Finset.sum_congr rfl fun i _ => ?_`
- Removed verbose intermediate comments while preserving the key physical insights in the docstring

The proof structure remains the same (geometric series argument using periodic boundary conditions), just more concise.

Comment (jstoobysmith) [reply PhysLean/CondensedMatter/TightBindingChain/Basic.lean:516]: Great! Would you be able to replace the proof in this PR with that shorter one?

**Review by jstoobysmith — APPROVED** [review]
Approved :). Many thanks for this first PR - hope it is the first of many! I will merge it shortly (sorry I think I missed that you had already replaced the proof).
